US06642256B2
6-(2-Azidoethanoyl)-3H-benzothiazol-2-one (0.5 g, 2.14 mmol) and Pd—C (5%, 0.17 g) in methanol (40 mL) and concentrated HCl (0.5 mL) were subjected to hydrogenation at 20 psi and 25° C. for 1 hour. The catalyst was removed by filtration through a ‘filter aid’ and the solvent removed to give 6-(2-aminoethanoyl)-3H-benzothiazol-2-one hydrochloride as a light brown solid (0.5 g, 96%).

reactant | 6-(2-Azidoethanoyl)-3H-benzothiazol-2-one | 2.14 mmol, 0.5 g | N(=[N+]=[N-])CC(=O)C1=CC2=C(NC(S2)=O)C=C1 | C9H6N4O2S
reactant | HCl | 0.5 mL | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
catalyst | Pd—C | 0.17 g | [Pd] | Pd
product | 6-(2-aminoethanoyl)-3H-benzothiazol-2-one hydrochloride | 0.5 g, 96% | Cl.NCC(=O)C1=CC2=C(NC(S2)=O)C=C1 | InChI=1S/C9H8N2O2S.ClH/c10-4-7(12)5-1-2-6-8(3-5)14-9(13)11-6;/h1-3H,4,10H2,(H,11,13);1H
